US05185471
J.D. Reinheimer et al, disclose (J. Org. Chem., 1957, vol. 22, p. 1743) that 2,4-dinitrofluorobenzene reacts with 8-hydroxyquinoline in acetone, in the presence of triethylamine, to form 8-(2,4-dinitrophenoxy)quinoline.

reactant | 2,4-dinitrofluorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | 8-hydroxyquinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 8-(2,4-dinitrophenoxy)quinoline | [N+](=O)([O-])C1=C(OC=2C=CC=C3C=CC=NC23)C=CC(=C1)[N+](=O)[O-] | C15H9N3O5
